US05547972
In a similar manner to Example 1, a mixture of 4-chlorobenzophenone (8.0 g) and 1-(3-aminopropyl)imidazole (4.6 g) was heated at 130° C. for 12 hours. The mixture was cooled, dissolved in absolute ethanol (100 ml), treated with sodium borohydride (2.8 g) and the mixture boiled under reflux for 8 hours. The oil obtained after work-up, using dichloromethane as the extracting solvent, was distilled to give N-[α-(4-chlorophenyl)benzyl]-3-(imidazol-1-yl)propylamine, b.p. 240° C. (0.3 mmHg).

reactant | 4-chlorobenzophenone | 8.0 g | ClC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9ClO
reactant | 1-(3-aminopropyl)imidazole | 4.6 g | NCCCN1C=NC=C1 | C6H11N3
reactant | sodium borohydride | 2.8 g | [BH4-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-[α-(4-chlorophenyl)benzyl]-3-(imidazol-1-yl)propylamine | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)NCCCN1C=NC=C1 | C19H20ClN3
